US04029772
To a solution of acetylalanylalanylproline (3 mmole) and N-methylmorpholine (3 mmole) in dry tetrahydrofuran (110 ml) at -20° to -25° C. is added isobutyl chloroformate (3 mmole) and stirred at -20° C. for 10 minutes. A solution of 2-azaalanylalanine ethyl ester (3 mmole) in tetrahydrofuran (15 ml) is added dropwise. The resulting mixture is allowed to warm to room temperature over a period of 1 hour and stirred overnight. The precipitate is filtered off and the filtrate is concentrated to dryness. Chromatography on silica gel (70 gm) and elution with 8% methanol in chloroform gives acetylalanylalanylprolyl-2-azaalanylalanine ethyl ester.

reactant | acetylalanylalanylproline | 3 mmole | C(C)(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H21N3O5
reactant | N-methylmorpholine | 3 mmole | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 3 mmole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-azaalanylalanine ethyl ester | 3 mmole | C(C)OC([C@@H](NC(N(N)C)=O)C)=O | C7H15N3O3
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | acetylalanylalanylprolyl-2-azaalanylalanine ethyl ester | C(C)OC([C@@H](NC(N(NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(C)=O)C)=O)C)=O)=O)C)=O)C)=O | C20H34N6O7
